US03989746
Preparation of 4-Bromo-1,2-dichloronaphthalene
To an ice-cooled solution of 4-bromo-2-chloro-1-naphthylamine (25.7 g) in water (60 ml) and concd. hydrochloric acid (30 ml) was added a solution of sodium nitrite (8.4 g) in water (16 ml) at 0°-5° C. The diazonium solution was stirred at same temperature an hour. There was added to it an ice-cooled solution of cuprous chloride (11 g) in concd. hydrochloric acid (60 ml). After stirring at 0°-5° C for 2 hrs., the mixture was warmed to room temperature. The brown percipitate was collected, washed with cold water, dried, and crystallized from EtOH to give colorless crystals (14.7 g, 75 %) of mp 84°-86° C.

reactant | 4-bromo-2-chloro-1-naphthylamine | 25.7 g | BrC1=CC(=C(C2=CC=CC=C12)N)Cl | C10H7BrClN
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | sodium nitrite | 8.4 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | water | 60 ml | O | H2O
solvent | water | 16 ml | O | H2O
product | 4-Bromo-1,2-dichloronaphthalene | 14.7 g, 75 % | BrC1=CC(=C(C2=CC=CC=C12)Cl)Cl | C10H5BrCl2
